US07361678B2
To a stirred solution of 4′-hydroxyacetophenone (2.2 mmol) in DMF (5 mL) at rt, solid potassium carbonate (9.0 mmol) was added. 4-chlorophenethyl mesylate (2.0 mmol) was added to the reaction mixture and heated to 80° C. until completion, according to General Procedure Q1. After cooling to rt, the reaction mixture was quenched using cold water (20 ml) and the product was isolated in EtOAc (2×20 ml). The combined organic layers were washed with saturated sodium bicarbonate (2×10 ml), water (2×10 ml) and brine (15 ml). The organic layer was dried over magnesium sulfate, and the solvent was removed in vacuuo to afford the desired 1-{4-[2-(4-chlorophenyl)ethoxy]phenyl}ethanone.

reactant | 4′-hydroxyacetophenone | 2.2 mmol | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | potassium carbonate | 9.0 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorophenethyl mesylate | 2.0 mmol | S(C)(=O)(=O)OCCC1=CC=C(C=C1)Cl | C9H11ClO3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-{4-[2-(4-chlorophenyl)ethoxy]phenyl}ethanone | ClC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C(C)=O | C16H15ClO2
